US08809353B2
Under an N2 atmosphere, Pd/C (10% weight, 210 mg) was added to a solution of (R)-benzyl 1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate (2.1 g, 4.44 mmol) in MeOH (60 mL). After purging 2 times with N2 and evacuating the atmosphere in the flask containing the reaction mixture, the reaction was stirred under an H2 atmosphere for 16 h. Since the reaction was not complete, an additional 200 mg Pd/C was added, and the reaction was stirred for an additional 4 h. The mixture was filtered through a pad of Celite (150 mL) using 1.8 mL MeOH, and the filtrate was concentrated under reduced pressure to obtain (R)-2-(4-(3-aminopyrrolidin-1-yl)-7-methylquinazolin-2-yl)-3-fluorophenol as a yellow solid (1.4 g, 93%). LC/MS: m/z 339.1 (M+H)+ at 1.05 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | (R)-benzyl 1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate | 4.44 mmol, 2.1 g | FC1=C(C(=CC=C1)O)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CC1)NC(OCC1=CC=CC=C1)=O)C | C27H25FN4O3
solvent | MeOH | 60 mL | CO | CH4O
catalyst | Pd/C | 210 mg | [Pd] | Pd
product | (R)-2-(4-(3-aminopyrrolidin-1-yl)-7-methylquinazolin-2-yl)-3-fluorophenol | 1.4 g, 93% | N[C@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1F)O | C19H19FN4O
